US07713982B2
c) 2,2′-(8-chloro-2,6-dioxo-6,7-dihydro-1H-purine-1,3(2H)-diyl)diacetonitrile
The title compound was prepared from 2,2′-[8-chloro-2,6-dioxo-7-(2-propen-1-yl)-6,7-dihydro-1H-purine-1,3(2H)-diyl]diacetonitrile using the conditions described for the synthesis of (8-chloro-2,6-dioxo-1,2,6,7-tetrahydro-3H-purin-3-yl)acetonitrile.

reactant | 2,2′-[8-chloro-2,6-dioxo-7-(2-propen-1-yl)-6,7-dihydro-1H-purine-1,3(2H)-diyl]diacetonitrile | ClC1=NC=2N(C(N(C(C2N1CC=C)=O)CC#N)=O)CC#N | C12H9ClN6O2
reactant | (8-chloro-2,6-dioxo-1,2,6,7-tetrahydro-3H-purin-3-yl)acetonitrile | ClC1=NC=2N(C(NC(C2N1)=O)=O)CC#N | C7H4ClN5O2
product | 2,2′-(8-chloro-2,6-dioxo-6,7-dihydro-1H-purine-1,3(2H)-diyl)diacetonitrile | ClC1=NC=2N(C(N(C(C2N1)=O)CC#N)=O)CC#N | C9H5ClN6O2
